US09403798B2
1-(4-Fluorophenyl)-3-hydroxypyrrolidin-2-one
A mixture of 3-hydroxydihydrofuran-2(3H)-one (5.00 g, 49.0 mmol) and 4-fluoroaniline (6.53 g, 59.0 mmol) was stirred at 150° C. for 1 day. After completion of the reaction, dichloromethane and 10 M sodium hydroxide aqueous solution were added to the reaction solution and the resultant mixture was filtered. To the filtrate, dichloromethane and concentrated hydrochloric acid were added to adjust pH to 1. The obtained solid was collected by filtration, washed with water, and dried under reduced pressure to obtain the title compound (6.78 g, yield 71%).

reactant | 3-hydroxydihydrofuran-2(3H)-one | 49.0 mmol, 5.00 g | OC1C(OCC1)=O | C4H6O3
reactant | 4-fluoroaniline | 59.0 mmol, 6.53 g | FC1=CC=C(N)C=C1 | C6H6FN
reactant | sodium hydroxide | 10 M | [OH-].[Na+]
solvent | dichloromethane | ClCCl | CH2Cl2
product | 1-(4-Fluorophenyl)-3-hydroxypyrrolidin-2-one | 6.78 g, yield 71% | FC1=CC=C(C=C1)N1C(C(CC1)O)=O | C10H10FNO2
